US09029544B2
(S)—((S)-5-(tert-butyldimethylsilyloxy)-4-iodo-2-isopropyl-7,7-dimethyl-5,6,7,8-tetrahydroquinolin-3-yl)(4-isopropoxyphenyl)methanol
Obtained by starting from (S)-5-(tert-butyldimethylsilyloxy)-4-iodo-2-isopropyl-7,7-dimethyl-5,6,7,8-tetrahydroquinoline-3-carbaldehyde and 1-iodo-4-isopropoxybenzene. A 2 M solution of caesium carbonate in water is used instead caesium fluoride. A 1.3 M solution of isopropylmagnesium chloride-lithium chloride-complex in tetrahydrofurane is used instead of a 2 M solution of isopropylmagnesium chloride in tetrahydrofurane.

reactant | (S)-5-(tert-butyldimethylsilyloxy)-4-iodo-2-isopropyl-7,7-dimethyl-5,6,7,8-tetrahydroquinoline-3-carbaldehyde | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C(=C(C(=NC2CC(C1)(C)C)C(C)C)C=O)I | C21H34INO2Si
reactant | 1-iodo-4-isopropoxybenzene | IC1=CC=C(C=C1)OC(C)C | C9H11IO
reactant | caesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | caesium fluoride | [F-].[Cs+]
reactant | isopropylmagnesium chloride lithium chloride | C(C)(C)[Mg]Cl.[Cl-].[Li+]
reactant | isopropylmagnesium chloride | C(C)(C)[Mg]Cl
solvent | water | O | H2O
solvent | tetrahydrofurane | O1CCCC1 | C4H8O
product | (S)—((S)-5-(tert-butyldimethylsilyloxy)-4-iodo-2-isopropyl-7,7-dimethyl-5,6,7,8-tetrahydroquinolin-3-yl)(4-isopropoxyphenyl)methanol | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C(=C(C(=NC2CC(C1)(C)C)C(C)C)[C@@H](O)C1=CC=C(C=C1)OC(C)C)I | C30H46INO3Si
